US04904671
(a) 4-(4-Aminobutylamino)-3-nitropyridine
To a solution of 1,4-diaminobutane (8.8 g) in ethanol (100 ml) at room temperature was added a solution of 4-chloro-3-nitropyridine in ethanol (50 ml). The mixture was stirred at room temperature for 30 minutes, poured into ethyl acetate (400 ml), and then washed with water (3×150 ml). The aqueous phases were back-extracted with methylene chloride (3×120 ml) and all the organic phases were combined, dried over Na2SO4, filtered and evaporated under vacuum. The residue was chromatographed on silica eluting with a mixture of methylene chloride and methanol containing 1% ammonium hydroxide. The fractions containing the product were combined and evaporated under vacuum to give the title compound, (4.2 g), which was used directly in the next step.

reactant | 1,4-diaminobutane | 8.8 g | NCCCCN | C4H12N2
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(4-Aminobutylamino)-3-nitropyridine | 4.2 g | NCCCCNC1=C(C=NC=C1)[N+](=O)[O-] | C9H14N4O2
